US08859541B2
2-amino-N-[1-(2-thiophen-3-ylethynyl)isoquinolin-3-yl]propanamide
A mixture of tert-butyl-N-[1-oxo-1-[[1-(2-thiophen-3-ylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate E4a (102 mg, 0.24 mmol) and DCM:TFA (9:1, 2 ml) is stirred at RT for 1 h. The mixture is diluted with toluene (10 ml) and concentrated in vacuo. The product is purified by RP HPLC. Yield: 65 mg (84%). HPLC-MS: M+H=322; tR=1.84 min (*Method—1).

reactant | tert-butyl-N-[1-oxo-1-[[1-(2-thiophen-3-ylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(NC=1N=C(C2=CC=CC=C2C1)C#CC1=CSC=C1)=O)C)=O | C23H23N3O3S
reactant | DCM TFA | 2 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-amino-N-[1-(2-thiophen-3-ylethynyl)isoquinolin-3-yl]propanamide | NC(C(=O)NC=1N=C(C2=CC=CC=C2C1)C#CC1=CSC=C1)C | C18H15N3OS
